US09403831B2
(S)-1-(4-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone (48 mg, 0.08 mmol) was dissolved in CH2Cl2(5 ml), and 4 N HCl in dioxane (1 ml) was added, followed by stirring at room temperature for 1 hour. After the reaction was completed, the reaction mixture was purified with ether to give (S)-1-(4-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone hydrochloride (46 mg, 90%).

reactant | (S)-1-(4-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone | 0.08 mmol, 48 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCC2)C2=NC=C(C=N2)C2=CC=C(CN1CCN(CC1)C(C)=O)C=C2 | C31H36N12O
reactant | HCl | 4 N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone hydrochloride | 46 mg, 90% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCC2)C2=NC=C(C=N2)C2=CC=C(CN1CCN(CC1)C(C)=O)C=C2 | InChI=1S/C31H36N12O.ClH/c1-22(44)41-12-10-40(11-13-41)18-23-5-7-25(8-6-23)26-14-33-31(34-15-26)42-9-3-4-24(19-42)20-43-30-29(37-38-43)32-17-28(36-30)27-16-35-39(2)21-27;/h5-8,14-17,21,24H,3-4,9-13,18-20H2,1-2H3;1H/t24-;/m0./s1
